US06696464B2
A mixture of 120 mg of 2-chloro-5-(2-methyl-4-phenyl-oxazol-5-yl)-pyridine in 1 mL of hydrazine (98%) was heated at 70° C. for 45 min before adding 0.5 mL of dichloromethane to get better mixing of the hydrazine and the chloro-pyridine. When the dichloromethane had evaporated 0.5 mL of ethanol was added and the mixture was heated for 11 hours. The layers were separated. The ethanol layer was diluted with ethyl acetate and washed with aqueous sodium carbonate (2×), dried (magnesium sulfate), filtered, and the filtrate was evaporated to give 110 mg of crude 5-(2-Methyl-4-phenyl-oxazol-5-yl)-pyridin-2-yl-hydrazine as an orange solid. This material was used with out purification in the next step.

reactant | 2-chloro-5-(2-methyl-4-phenyl-oxazol-5-yl)-pyridine | 120 mg | ClC1=NC=C(C=C1)C1=C(N=C(O1)C)C1=CC=CC=C1 | C15H11ClN2O
reactant | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
reactant | chloro-pyridine | ClC1=NC=CC=C1 | C5H4ClN
reactant | hydrazine | 1 mL | NN | H4N2
product | 5-(2-Methyl-4-phenyl-oxazol-5-yl)-pyridin-2-yl-hydrazine | 110 mg | CC=1OC(=C(N1)C1=CC=CC=C1)C=1C=CC(=NC1)NN | C15H14N4O
